US09376442B2
4-[5-(Cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-6-methyl-N-piperidin-4-yl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride
tert-Butyl 4-[({4-[5-(cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidin-7-yl}carbonyl)amino]piperidine-1-carboxylate from example D.e1 (2.72 g; 4.95 mmol) is dissolved in dry 2-propanol (50 mL). After addition of 4M HCl in dioxane (5.0 mL) the stirred reaction mixture is heated to 80° C. for two hours. At ambient temperature tert.-butyl methyl ether (100 mL) is added. The precipitated product is isolated by suction filtration, washed with several portions of tert.-butyl methyl ether and dried in high vacuo at 40° C. to yield the title compound as yellow solid.

reactant | tert-Butyl 4-[({4-[5-(cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidin-7-yl}carbonyl)amino]piperidine-1-carboxylate | C1(CC1)COC1=C(C2=C(OCO2)C=C1)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)NC2CCN(CC2)C(=O)OC(C)(C)C | C29H35N5O6
reactant | HCl | 4M | Cl | ClH
reactant | tert.-butyl methyl ether | 100 mL | COC(C)(C)C | C5H12O
solvent | 2-propanol | 50 mL | CC(C)O | C3H8O
solvent | dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
product | 4-[5-(Cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-6-methyl-N-piperidin-4-yl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride | Cl.C1(CC1)COC1=C(C2=C(OCO2)C=C1)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)NC2CCNCC2 | InChI=1S/C24H27N5O4.ClH/c1-13-18(24(30)29-15-6-8-25-9-7-15)20-22(28-13)21(27-11-26-20)19-16(31-10-14-2-3-14)4-5-17-23(19)33-12-32-17;/h4-5,11,14-15,25,28H,2-3,6-10,12H2,1H3,(H,29,30);1H
